US06278013B1
8-Cyano-1-cyclopropyl-7-[(1S,6S)-2-(3-oxo-butyl)-2,8-diazabicyclo[4.3.0]nonan-8-yl]-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
300 mg (0.76 mmol) of 8-cyano-1-cyclopropyl-7-((1S,6S)-2,8-diazabicyclo[4.3.0]-nonan-8-yl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid and 0.63 ml (7.6 mmol) of methly vinyl ketone are heated under reflux in 5 ml of methylglycol for 2 hours. The reaction solution is concentrated in vacuo and the residue is stirred with water and filtered off with suction.

reactant | 8-cyano-1-cyclopropyl-7-((1S,6S)-2,8-diazabicyclo[4.3.0]-nonan-8-yl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.76 mmol, 300 mg | C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)N1C[C@@H]2CCCN[C@@H]2C1 | C21H21FN4O3
reactant | methly vinyl ketone | 7.6 mmol, 0.63 ml | C(=C)C(=O)C | C4H6O
product | 8-Cyano-1-cyclopropyl-7-[(1S,6S)-2-(3-oxo-butyl)-2,8-diazabicyclo[4.3.0]nonan-8-yl]-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)N1C[C@@H]2CCCN([C@@H]2C1)CCC(C)=O | C25H27FN4O4
